US07214704B2
To a suspension of 1-carbomethoxy-2-benzylamino-3,4-dihydronaphthalene (1.46 g) in methanol (30 mL) at room temperature, was added 10% palladium on carbon (200 mg). The resulting mixture was shaken under a hydrogen atmosphere at 40 psi for 3 d using a Parr apparatus. The catalyst was filtered, and the filtrate was evaporated under vacuum to obtain crude product. The crude product was purified by reverse phase preparative HPLC to obtain predominantly cis 1-carbomethoxy-2-amino-1,2,3,4-tetrahydronaphthalene (160 mg) as a cis-trans mixture (10:1).

reactant | 1-carbomethoxy-2-benzylamino-3,4-dihydronaphthalene | 1.46 g | C(=O)(OC)C1=C(CCC2=CC=CC=C12)NCC1=CC=CC=C1 | C19H19NO2
solvent | methanol | 30 mL | CO | CH4O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | cis 1-carbomethoxy-2-amino-1,2,3,4-tetrahydronaphthalene | 160 mg | C(=O)(OC)[C@H]1[C@H](CCC2=CC=CC=C12)N | C12H15NO2
